US07456127B2
Synthesis of (3,5-di-tert-butyl-2-hydroxyphenyl)(2,6-dimethylphenyl) sulfide (ArSArOH-1)
Under N2, 2.225 g m-xylene-2-sulfenyl chloride (12.9 mmol) were dissolved in 25 mL hexanes. Under air, a 100 mL 3-necked round-bottom flask was charged with stirbar and 2.64 g 2,4-di-tert-butylphenol (12.8 mmol), then reflux condenser with vacuum adapter and addition funnel were attached. The phenol was dried in vacuo for 20 minutes, then placed under N2 and immersed in an oil bath set at 100° C. The solution of m-xylene-2-sulfenyl chloride was then added via addition funnel and the reaction mixture refluxed overnight. Solvent had evaporated by morning, probably through a leaky joint. The resulting brown solid was ground up in mortar and pestle and recrystallized from ethanol, yielding 2.170 g cream-colored solid which melted at 101-102° C. A second, somewhat darker crop of 0.434 g was recovered from the mother liquor. Combined yield: 59% (based on 2,4-di-tert-butylphenol). 1H NMR (CDCl3), δ (ppm): 7.07-7.13 (m), 4H, Ar—H; 6.82 (d, J=2.4 Hz), 1H, Ar—H; 6.28 (s), 1H, OH; 2.41 (s), 6H, CH3; 1.38 (s), 9H, t-Bu; 1.13 (s), 9H, t-Bu.

reactant | m-xylene-2-sulfenyl chloride | 12.9 mmol, 2.225 g | C1(=C(C(=CC=C1)C)SCl)C | C8H9ClS
reactant | 2,4-di-tert-butylphenol | 12.8 mmol, 2.64 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
product | (3,5-di-tert-butyl-2-hydroxyphenyl)(2,6-dimethylphenyl) sulfide | 2.170 g, yield: 59% | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)SC1=C(C=CC=C1C)C)O | C22H30OS
